US07807672B2
Preparation of (S,S)-5-(5-Vinyl-pyrimidin-2-yl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester
(S,S)-5-(5-Bromo-pyrimidin-2-yl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (177 mg, 0.5 mmol), tributyl vinyl tin (634 mg, 2 mmol) and Cl2Pd(dppf)CH2Cl2 (60 mg) was mixed in DMF (3 mL). The mixture was heated at 90° C. over 3 days. The cooled down reaction was participate between ethyl acetate (50 mL) and H2O (10 mL). The organic layer washed with H2O (10 mL), brine (10 mL), dried (MgSO4) and filtered. The conc. filtrate was purified on silica gel column eluting with 33% to 50% ethyl acetate/hexanes to yield the title compound as a white solid (54 mg). MS (303, MH).

reactant | (S,S)-5-(5-Bromo-pyrimidin-2-yl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.5 mmol, 177 mg | C(C)(C)(C)OC(=O)N1[C@@H]2CN([C@H](C1)C2)C2=NC=C(C=N2)Br | C14H19BrN4O2
reactant | tributyl vinyl tin | 2 mmol, 634 mg | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
reactant | H2O | 10 mL | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (S,S)-5-(5-Vinyl-pyrimidin-2-yl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 54 mg | C(C)(C)(C)OC(=O)N1[C@@H]2CN([C@H](C1)C2)C2=NC=C(C=N2)C=C | C16H22N4O2
